### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): add lemmas about `spanningCoe`

### PR DESCRIPTION
**Pull request by pimotte**
Add some small lemma's supporting `Subgraph.spanningCoe`
`SimpleGraph.adj_iff_of_sym2_eq` is currently unused, but added for symmetry with the `Subgraph` API. 
In preparation for Tutte's theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Zulip thread for Tutte](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)

[Work in progress with example usages](https://github.com/pimotte/TutteLean/blob/main/TutteLean/Part2.lean)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 1]
```diff
@@ -168,6 +169,15 @@ lemma sup_edge_of_adj (h : G.Adj s t) : G ⊔ edge s t = G := by
   rwa [sup_eq_left, ← edgeSet_subset_edgeSet, edge_edgeSet_of_ne h.ne, Set.singleton_subset_iff,
     mem_edgeSet]
 
+theorem Subgraph.sup_edge_spanningCoe_le {H : Subgraph (G ⊔ edge s t)} (h : ¬ H.Adj s t) :
+    H.spanningCoe ≤ G := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:173]: That's a tough one to name, but maybe this is better?
```suggestion
theorem Subgraph.spanningCoe_sup_edge_le {H : Subgraph (G ⊔ edge s t)} (h : ¬ H.Adj s t) :
    H.spanningCoe ≤ G := by
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 2]
```diff
@@ -164,6 +171,9 @@ lemma spanningCoe_le (G' : G.Subgraph) : G'.spanningCoe ≤ G := fun _ _ ↦ G'.
 theorem spanningCoe_inj : G₁.spanningCoe = G₂.spanningCoe ↔ G₁.Adj = G₂.Adj := by
   simp [Subgraph.spanningCoe]
 
+lemma mem_of_spanningCoe_adj {v w : V} {s : Set V} (G : SimpleGraph s)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:174]:
```suggestion
lemma mem_of_adj_spanningCoe {v w : V} {s : Set V} (G : SimpleGraph s)
```

File: Mathlib/Combinatorics/SimpleGraph/Subgraph.lean [hunk 3]
```diff
@@ -118,6 +118,13 @@ protected theorem Adj.snd_mem {H : G.Subgraph} {u v : V} (h : H.Adj u v) : v ∈
 protected theorem Adj.ne {H : G.Subgraph} {u v : V} (h : H.Adj u v) : u ≠ v :=
   h.adj_sub.ne
 
+theorem adj_iff_of_sym2_eq {H : G.Subgraph} {u v w x : V} (h2 : s(u, v) = s(w, x)) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Subgraph.lean:121]:
```suggestion
theorem adj_congr_of_sym2 {H : G.Subgraph} {u v w x : V} (h2 : s(u, v) = s(w, x)) :
```
maybe?

**Review by YaelDillies — COMMENTED** [review]
Thanks for the PR!

**Comment by pimotte** [comment]
Fixed up the suggested names, I also renamed the `SimpleGraph` version of the congruence lemma to adhere to the same naming

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Operations.lean [hunk 4]
```diff
@@ -5,6 +5,7 @@ Authors: Jeremy Tan
 -/
 import Mathlib.Combinatorics.SimpleGraph.Finite
 import Mathlib.Combinatorics.SimpleGraph.Maps
+import Mathlib.Combinatorics.SimpleGraph.Subgraph
```
Comment (kim-em) [inline Mathlib/Combinatorics/SimpleGraph/Operations.lean:8]: Is this unavoidable?

Comment (kim-em) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean:8]: Generally these files could probably do with a reorganization. e.g. the first declaration in this file seems to have nothing to do with the module doc, and I suspect is only here because it's the first place the imports are available.

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean:8]: I agree that `card_edgeFinset_eq` is a little bit in an odd spot here.

For what I'm doing, the alternatives I see are:
- Move edge to `Basic.lean`
- Move result to another file without changing imports (Clique is the only file importing this)
- Add this to another file that already has Subgraph and add the Operations import 
- Create a new file

My intuition is that adding the Subgraph import on this file makes the most sense, but I'm happy to be convinced otherwise.

Comment (kim-em) [reply Mathlib/Combinatorics/SimpleGraph/Operations.lean:8]: Okay.

**Comment by kim-em** [comment]
bors merge
